US07935131B2
Preparation of N-(6-methyl-4-oxo-1,4-dihydropyrimidin-2-yl)-1H-imidazole-1-carboxamide (4):
A mixture of 6-methylisocytosine (1 eq.) and carbonyldiimidazole (1.5 eq.) were combined in dimethylsulfoxide (DMSO) and the solution was stirred at 60° C. for 2 hours. The mixture was cooled to about room temperature and acetone added after which the desired product precipitated as a white powder that was collected by filtration. The procedure of A. T. Cate, P. Y. W. Dankers, H. Kooijman, A. L. Spek, R. P. Sijbesma, and E. W. Meijer, J. of Am. Chem. Soc., 2003, 125, 6860 was followed for this step. The product can be used without further purification.

reactant | 6-methylisocytosine | 1 eq. | CC1=CC(=O)N=C(N1)N | C5H7N3O
reactant | carbonyldiimidazole | 1.5 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | acetone | CC(=O)C | C3H6O
solvent | dimethylsulfoxide | CS(=O)C | C2H6OS
product | N-(6-methyl-4-oxo-1,4-dihydropyrimidin-2-yl)-1H-imidazole-1-carboxamide | CC1=CC(N=C(N1)NC(=O)N1C=NC=C1)=O | C9H9N5O2
